US06426345B1
A mixture of 2-(3-chlorophenylamino)-3-nitropyridine (394 mg), hydrochloric acid (35% 1.3 ml) and iron powder (0.44 g) in ethanol (5 ml) was refluxed for 15 minutes. The mixture was poured into aqueous sodium bicarbonate solution and extracted with ethyl acetate twice. The combined organic solution was washed with aqueous sodium bicarbonate solution and brine, dried over magnesium sulfate and concentrated. The resultant solid was collected and washed with isopropyl ether to give 3-amino-2-(3-chlorophenylamino)pyridine (281 mg).

reactant | 2-(3-chlorophenylamino)-3-nitropyridine | 394 mg | ClC=1C=C(C=CC1)NC1=NC=CC=C1[N+](=O)[O-] | C11H8ClN3O2
reactant | hydrochloric acid | 1.3 ml | Cl | ClH
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | ethanol | 5 ml | C(C)O | C2H6O
catalyst | iron | 0.44 g | [Fe] | Fe
product | 3-amino-2-(3-chlorophenylamino)pyridine | 281 mg | NC=1C(=NC=CC1)NC1=CC(=CC=C1)Cl | C11H10ClN3
